Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
Fever, flank pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old woman with HTN and GERD who presents 
with
right sided flank pain.

The patient shares that the day prior to presentation she
developed right lower abdominal/back pain, along with fevers. 
She
has had no vomiting, diarrhea, but did have dysuria. She had no
cough, shortness of breath or chest pain either. Due to ongoing
pain and fevers, she presented to the ED.

In the ED, initial VS were:  99.8 (spiked to 102.7) 94 147/56 18
98%RA. Exam was not documented. Labs were notable for WBC 13.8,
Hb 13, Cr 0.9, AST 117, ALT 114, AP 167, Tbili 0.9, Lipase 20,
APAP 16 and negative on repeat, lactate 1.1. UA with 14 WBC and
moderate ___ with no nitrites. CT AP showed right sided
pyelonephritis and diverticulosis without diverticulitis. RUQ US
was normal. She was given ceftriaxone and ibuprofen. 

On arrival to the floor, patient gives the above history. She
says she is currently feeling better. She says she has had two
urinary tract infections in the past, but has not needed to be
hospitalized. She has never been told she had resistant 
organisms
and has never had an infection of her blood. She has never been
told she has any problems with her liver. No recent easy 
bruising
or bleeding.
 

 
Past Medical History:
GERD
HTN
Osteoporosis  
 
Social History:
___
Family History:
Alzheimers
 
Physical Exam:
ADMISSION EXAM:
VS:  98.7 100/61 95 18 95 RA
GENERAL: sitting up in bed, no acute distress and appears
relatively well 
HEENT: moist mucosa, anicteric sclera 
NECK: supple, no LAD, no JVD  
HEART: RRR, systolic murmur heard throughout precordium loudest
at ___  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, tender in right flank with no rebound or
guarding, no appreciable hepatomegaly   
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  
 
DISCHARGE EXAM
___ 0732 Temp: 97.7 PO BP: 146/68 R Sitting HR: 73 RR: 18 
O2
sat: 98% O2 delivery: Ra 
GENERAL: sitting up in bed, no acute distress and appears well
HEENT: moist mucosa, anicteric sclera 
NECK: supple, no JVD  
HEART: RRR, systolic murmur heard throughout precordium loudest
at ___  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender, no flank tendeness or RUQ
tenderness. 
EXTREMITIES: no cyanosis, clubbing, or edema  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

 
Pertinent Results:
ADMISSION LABS
___ 01:09AM BLOOD WBC-13.8* RBC-4.18 Hgb-13.0 Hct-38.3 
MCV-92 MCH-31.1 MCHC-33.9 RDW-12.7 RDWSD-42.1 Plt ___
___ 01:09AM BLOOD Neuts-86.5* Lymphs-6.3* Monos-6.5 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-11.96* AbsLymp-0.87* 
AbsMono-0.90* AbsEos-0.02* AbsBaso-0.03
___ 01:09AM BLOOD ___ PTT-30.9 ___
___ 09:15PM BLOOD Glucose-130* UreaN-12 Creat-0.9 Na-137 
K-4.2 Cl-97 HCO3-22 AnGap-18
___ 09:15PM BLOOD ALT-114* AST-117* AlkPhos-167* 
TotBili-0.9
___ 08:38AM BLOOD Albumin-3.4* Calcium-8.6 Phos-3.2 Mg-2.0

INTERVAL LABS
___ 06:14AM BLOOD HCV Ab-NEG
___ 01:09AM BLOOD Acetmnp-NEG
___ 01:15AM BLOOD Lactate-1.1

DISCHARGE LABS
___ 09:20AM BLOOD Calcium-9.0 Phos-3.6 Mg-2.5
___ 09:20AM BLOOD ALT-229* AST-178* LD(LDH)-259* 
AlkPhos-332* TotBili-0.4
___ 09:20AM BLOOD Glucose-175* UreaN-16 Creat-1.0 Na-137 
K-4.6 Cl-99 HCO3-24 AnGap-14
___ 09:20AM BLOOD WBC-5.3 RBC-4.32 Hgb-13.3 Hct-40.1 MCV-93 
MCH-30.8 MCHC-33.2 RDW-12.8 RDWSD-43.8 Plt ___
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with GERD who presents with 
pyelonephritis.

# Abdominal pain
# Pyelonephritis
On admission, the patient had a CT scan which positive for 
pyelonephritis. Her uninalysis indicated UTI and her urine 
culture grew pansensitive E. Coli. Patient received ceftriaxone 
IV, day ___, transitioned to bactrim initially, but 
eventually switched to cipro to complete a 14 day course (___). Ceftriaxone and Bactrim were both held due to 
transaminitis with concern for drug-induced liver injury. 

# Transaminitis: AST/ALT elevated to around 200 on discharge, 
rising slightly. We were concerned that this was due to either 
the ceftriaxone or the Bactrim, so her antibiotics were 
switched to ciprofloxacin as above. We spoke with the patient's 
primary care office and verified that she would have repeat 
labs at her appointment on ___ to ensure improvement of 
LFTs.

# Hypertension: Normotensive to hypotensive here. Patient 
reportedly recently stopped taking lisinopril due to cough. 
Will hold off on lisinopril on discharge, and it should be 
re-evaluated if she needs this as an outpatient.

#GERD: Continued home omeprazole

#Osteoporosis: Continued home alendronate on DC

TRANSITIONAL ISSUES
[  ] Patient needs follow up labs for liver function within two 
days of discharge
[  ] Discuss which herbs she is taking and if they could be 
causing her LFT abnormalities
[  ] Ciprofloxacin 14 day course last day ___
[  ] Consideration to whether to restart lisinopril should be 
undertaken

#CONTACT:  Son, ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO QMON 
2. Omeprazole 20 mg PO DAILY 
3. Fish Oil (Omega 3) 1000 mg PO Frequency is Unknown 
4. Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg (1,500 
mg)-800 unit oral DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*19 Tablet Refills:*0 
2.  Fish Oil (Omega 3) 1000 mg PO DAILY  
3.  Alendronate Sodium 70 mg PO QMON  
4.  Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg 
(1,500 mg)-800 unit oral DAILY  
5.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pylonephritis
LFT abnormalities

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
You came to ___ with fever and flank pain. We found you had an 
infection of your urine and kidney. We treated you with 
antibiotics and your symptoms improved. We also found that your 
liver function was abnormal. This may because of some of the 
medications that you received (but are no longer on) or because 
of the herbs you take. You should talk to your doctor about your 
herbal medications before you continue to take them they may be 
causing your liver numbers to be high. Please keep all of your 
follow up appointments and take all of your medications as 
directed.
It was a pleasure taking care of you,
Your ___ Care Team 
 
Followup Instructions:
___